US07781438B2
Preparation of 6-Chloro-3-methyl-5-nitroquinoline
To a solution of 6-chloro-3-methylquinoline (6.3 g, 35.6 mmol) in concentrated H2SO4 (22 mL) was added dropwise a solution of KNO3 (3.77 g, 37.2 mmol) in concentrated H2SO4 (22 mL) at 0° C. Care was taken that the temperature of the reaction mixture did not rise above 10° C. The reaction mixture was stirred for 1 h at 0° C. and 12 h at room temperature. It was then poured onto ice (150 g) and rendered basic (pH=10) with a 33% aqueous ammonia solution. A dark yellow precipitate was formed, which was filtered off, thoroughly rinsed with water and dried in vacuo to afford the title compound as a brown solid (7.1 g, 31.9 mmol, 90%). 1H NMR (400 MHz, CDCl3, 298 K): δ=8.89 (s, 1H), 8.20 (d, J=9.0 Hz, 1H), 7.82 (s, 1H), 7.72 (s, 1H), 2.59 (s, 3H). MS (ES+): 223 (M(C10H735ClN2O2)+H)+.

reactant | 6-chloro-3-methylquinoline | 35.6 mmol, 6.3 g | ClC=1C=C2C=C(C=NC2=CC1)C | C10H8ClN
reactant | KNO3 | 37.2 mmol, 3.77 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonia | N | H3N
solvent | H2SO4 | 22 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 22 mL | OS(=O)(=O)O | H2O4S
product | 6-Chloro-3-methyl-5-nitroquinoline | 31.9 mmol, 7.1 g, 90% | ClC=1C(=C2C=C(C=NC2=CC1)C)[N+](=O)[O-] | C10H7ClN2O2
